US05945436
A solution of α-[2-(4-fluorophenyl)ethyl]-3-pyridineacetonitrile (4 g) in tetrahydrofuran (30 ml) was added dropwise, under nitrogen atmosphere, to a stirred suspension of sodium amide (0.8 g) at 0° C. After complete addition (~20 minutes) the resultant mixture was stirred at 0° C. for 1 hour followed by 1 hour at room temperature. The mixture was then cooled to -40° C. and treated with dropwise addition of a solution of allyl bromide (2 g) in tetrahydrofuran (30 ml) to produce a reaction mixture. The reaction mixture was allowed to warm up to room temperature overnight, then neutralized with 10% hydrochloric acid and worked up by extraction with methylene chloride to produce a crude reaction product. The crude reaction product was then chromatographed on a silica gel column and eluted with 25% ethyl acetate in hexanes to give 3.7 g of 4-fluoro-α-(2-propenyl)-α-(3-pyridinyl)benzene-butanenitrile. The structure was confirmed by NMR spectroscopy.

reactant | α-[2-(4-fluorophenyl)ethyl]-3-pyridineacetonitrile | 4 g | FC1=CC=C(C=C1)CCC(C#N)C=1C=NC=CC1 | C15H13FN2
reactant | sodium amide | 0.8 g | [NH2-].[Na+]
reactant | allyl bromide | 2 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-fluoro-α-(2-propenyl)-α-(3-pyridinyl)benzene-butanenitrile | 3.7 g | FC1=CC=C(C=C1)CCC(C#N)(C=1C=NC=CC1)CC=C | C18H17FN2
